US06797726B1
In 3.0 mL of toluene is suspended 0.44 g of sodium hydride (60% mineral oil suspension), to which is dropwise added, at an ice-cooled temperature, a mixture of 0.93 g of 1-(5-{2-[2-(dimethylamino)ethoxy]-ethyl}-2-hydroxyphenyl)-1-ethanone, 6.0 mL of toluene and 9.0 mL of ethyl formate. The resulting mixture is stirred at ambient temperature for one hour. Ice water and ethyl acetate are added to the reaction mixture, pH is adjusted to 11 with anhydrous potassium carbonate, and the organic layer is separated. The aqueous layer is twice extracted with ethyl acetate, and then the aqueous layer is salted out and further extracted once with ethyl acetate and four times with chloroform. The organic layers are collected and dried over anhydrous magnesium sulfate, and the solvent is distilled off under reduced pressure. The residue is dissolved in 13 mL of acetic acid, 6.5 mL of 12 mol/L aqueous hydrochloric acid is added, and the resulting mixture is stirred at 60° C. for 15 minutes. After cooling, chloroform and water are added, pH is adjusted to 7.0 with anhydrous potassium carbonate, and the organic layer is separated. The organic layer is dried over anhydrous magnesium sulfate, the solvent is distilled off under reduced pressure, and the residue is purified by column chromatography (eluent: chloroform:methanol=50:1 to 5:1) to obtain 6-{2-[2-(dimethylamino)ethoxy]-ethyl}-4H-chromen-4-one as an oily product.

reactant | sodium hydride | 0.44 g | [H-].[Na+]
reactant | 1-(5-{2-[2-(dimethylamino)ethoxy]-ethyl}-2-hydroxyphenyl)-1-ethanone | 0.93 g | CN(CCOCCC=1C=CC(=C(C1)C(C)=O)O)C | C14H21NO3
reactant | ethyl formate | 9.0 mL | C(=O)OCC | C3H6O2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | toluene | 3.0 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 6.0 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-{2-[2-(dimethylamino)ethoxy]-ethyl}-4H-chromen-4-one | CN(CCOCCC=1C=C2C(C=COC2=CC1)=O)C | C15H19NO3
